US07696221B2
4-[(2-Bromo-5-ethylthieno[3,2-c]isoquinolin-4(5H)-yl)sulfonyl]phenol
Starting from 4-[(4-Methoxyphenyl)sulfonyl]-5-ethyl-4,5-dihydrothieno[3,2-c]isoquinoline in place of 4-[(4-Methoxyphenyl)sulfonyl]-5-methyl-4,5-dihydrothieno[3,2-c]isoquinoline (Step 1), the title compound (0.19 g tan solid, 20%, m.p. 183-85° C.) was synthesized in essentially the same manner as described in Example 6, Method B, Steps 1-2, for 4-[(2-Bromo-5-methylthieno[3,2-c]isoquinolin-4(5H)-yl)sulfonyl]phenol.

reactant | 4-[(4-Methoxyphenyl)sulfonyl]-5-ethyl-4,5-dihydrothieno[3,2-c]isoquinoline | COC1=CC=C(C=C1)S(=O)(=O)N1C(C=2C=CC=CC2C2=C1C=CS2)CC | C20H19NO3S2
reactant | 4-[(2-Bromo-5-methylthieno[3,2-c]isoquinolin-4(5H)-yl)sulfonyl]phenol | BrC1=CC=2N(C(C=3C=CC=CC3C2S1)C)S(=O)(=O)C1=CC=C(C=C1)O | C18H14BrNO3S2
product | 4-[(2-Bromo-5-ethylthieno[3,2-c]isoquinolin-4(5H)-yl)sulfonyl]phenol | 0.19 g, 20% | BrC1=CC=2N(C(C=3C=CC=CC3C2S1)CC)S(=O)(=O)C1=CC=C(C=C1)O | C19H16BrNO3S2
